US04994569
4-Methoxyphenyl isocyanate (1 g) is added at a temperature in the region of 20° C. to a solution, maintained under an argon atmosphere, of (4RS, 5RS)-2,4-diphenyl-5,6-dihydro-4H-1,3-oxazin-5-ol (1.7 g) in 1,2-dichloroethane (20 cc). The solution obtained is stirred under reflux for 4 hours and then concentrated to dryness under reduced pressure (2.7 kPa). The residue is purified by chromatography on silica (0.063-0.2 mm; 40 g) contained in a column 2 cm in diameter, collecting 20-cc fractions. Fractions 2 to 6, eluted with a mixture of ethyl acetate and cyclohexane (3:7 by volume), are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization in diisopropyl ether, (4RS, 5RS)-5-(4-methoxyphenylcarbamoyloxy)-2,4-diphenyl-5,6-dihydro-4H-1,3-oxazine (0.7 g), m.p. 140° C., is obtained.

reactant | 4-Methoxyphenyl isocyanate | 1 g | COC1=CC=C(C=C1)N=C=O | C8H7NO2
reactant | (4RS, 5RS)-2,4-diphenyl-5,6-dihydro-4H-1,3-oxazin-5-ol | 1.7 g | C1(=CC=CC=C1)C=1OCC(C(N1)C1=CC=CC=C1)O | C16H15NO2
solvent | 1,2-dichloroethane | 20 cc | ClCCCl | C2H4Cl2
product | (4RS, 5RS)-5-(4-methoxyphenylcarbamoyloxy)-2,4-diphenyl-5,6-dihydro-4H-1,3-oxazine | 0.7 g | COC1=CC=C(C=C1)NC(=O)OC1C(N=C(OC1)C1=CC=CC=C1)C1=CC=CC=C1 | C24H22N2O4
